Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
tramadol
 
Attending: ___
 
Chief Complaint:
Diplopia and vertigo 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ right handed man with PMH significant for
HTN, HLD and chronic LBP who presents with stuttering onset of
vertigo. The patient reports that ___ at 2 pm he had
the gradual onset of room spinning vertigo while watching TV. 
The
room was spinning clockwise. If he kept perfectly still the
symptom would abate but with any movement he would be spinning
again. This lasted until 11pm that night when the patient went 
to
sleep. once he was in bed the symptoms resolved. He did not have
associated N/V or headache at the time. 

The symptoms returned on ___ at noon; he was again
watching TV. again with clockwise room spinning. The spinning
came and went throughout the day without any clear trigger. when
spinning, movement made things worse, but movement alone did not
trigger the spinning. This continued throughout the day and into
the night. The patient was able to fall asleep but he woke up at
3am to go to the bathroom and found that he could not walk. The
spinning had become relentless and he continues to spin at this
point. Even when he is perfectly still the sx continues. He
denies N/V, hearing changes or ear fullness. He has not been 
sick
at all recently. He denies any additional neurologic symptoms. 

He has had a similar episode once about a year ago where he felt
dizzy and fell down, but he reports that he was not really
spinning the way he currently is. Those symptoms lasted about 1
day and resolved spontaneously. 

On neuro ROS: the pt denies headache, loss of vision, blurred
vision, diplopia, dysarthria, dysphagia, lightheadedness,
tinnitus or hearing difficulty. Denies difficulties producing or
comprehending speech. Denies focal weakness, numbness,
paresthesias. No bowel or bladder incontinence or retention. 

On general ROS: the pt denies recent fever or chills. No night
sweats or recent weight loss or gain. Denies cough, shortness of
breath. Denies chest pain or tightness, palpitations. Denies
nausea, vomiting, diarrhea, constipation or abdominal pain. No
recent change in bowel or bladder habits. No dysuria. Denies
arthralgias or myalgias. Denies rash.

 
Past Medical History:
- HTN (on multiple argents) 
- HLD
- chronic low back pain with a narcotics contract 
- prior "open heart surgery" from a stab injury when he was
younger

Allergies:
Tramadol: itch 
 
Social History:
___
Family History:
No history of early stroke or MI. no blood clotting issues. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
T: 98.8 HR: 92 BP: 120/83 RR: 18 Sat: 100% on RA 

GENERAL MEDICAL EXAMINATION:
General appearance: Awake and alert. uncomfortable appearing
laying very still in bed with head tilted to down and to the
left. 
HEENT: Neck is supple. Sclera are non-injected. Mucous membranes
are moist. 
CV: Heart rate is regular
Lungs: Breathing comfortably on RA 
Abdomen: soft, non-tender 
Extremities: No evidence of deformities. No contractures. No
Edema. 
Skin: No visible rashes. Warm and well perfused.

NEUROLOGICAL EXAMINATION:
Mental Status: Alert and oriented to person place and time. Able
to relate history without difficulty. Attentive to conversation.
Language is fluent and appropriate with intact comprehension,
repetition and naming of both high and low frequency objects.
Normal prosody. There were no paraphasic errors. Speech was not
dysarthric. Able to follow both midline and appendicular
commands. No neglect, left/right confusion or finger agnosia. 

Cranial Nerves:
II: visual fields full to confrontation. 
III-IV-VI: pupils equally round, reactive to light. eyes are
conjugate, extra-ocular movements are full. There is no 
diplopia.
- left beating nystagmus in primary gaze accelerated with left
gaze, slightly slower with right gaze. left beating nystagmus on
up and down gaze. no skew. 
V: Symmetric perception of LT in V1-3 
VII: Face is symmetric at rest and with activation; symmetric
speed and excursion with smile.
VIII: Hearing intact to finger rub bl
IX-X: Palate elevates symmetrically
XI: Shoulder shrug ___ bl 
XII: No tongue deviation or fasciculations

HIT is difficult to interpret due to ongoing nystagmus. The 
seems
to be a lag followed by corrective saccade with head turn to the
right and not left. 
repeat finger to nose with eyes closed is accurate. 

Motor: Normal muscle bulk and tone throughout. No pronator drift
or rebound. 
Strength:
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

Reflexes:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Toes are down going bilaterally.

Sensory: normal and symmetric perception of light touch,
vibration and temperature. Proprioception is intact. No
extinction to DSS.

Coordination: Finger to nose without dysmetria bilaterally. No
intention tremor. RAM were symmetric with regard to cadence and
speed, no dysdiadochokinesia noted. No overshoot on mirroring.

Gait: Truncal ataxia when sitting at edge of the bed. not 
clearly
falling to any one side. was not able to stand. 

DISCHARGE PHYSICAL EXAM:
VS: 98.2   108/67   ___   FSBG 75-105
Gen: NAD, A&Ox3
CV: RRR
Pulm: breathing comfortably
Neuro: no truncal ataxia with sitting, L beating nystagmus on L 
gaze and upward on upward gaze, EOM full, broad based gait with 
ataxia
 
Pertinent Results:
ADMISSION LABS:
___ 08:30AM BLOOD WBC-6.1 RBC-4.75 Hgb-14.7 Hct-44.4 MCV-94 
MCH-30.9 MCHC-33.1 RDW-12.9 RDWSD-44.4 Plt ___
___ 08:30AM BLOOD Neuts-72.5* Lymphs-14.4* Monos-9.8 
Eos-2.3 Baso-0.7 Im ___ AbsNeut-4.42 AbsLymp-0.88* 
AbsMono-0.60 AbsEos-0.14 AbsBaso-0.04
___ 08:30AM BLOOD Glucose-126* UreaN-23* Creat-1.6* Na-139 
K-4.2 Cl-98 HCO3-29 AnGap-16
___ 08:30AM BLOOD ALT-42* AST-33 AlkPhos-92 TotBili-0.6
___ 08:30AM BLOOD cTropnT-<0.01
___ 05:15AM BLOOD cTropnT-<0.01
___ 08:30AM BLOOD Albumin-4.3
___ 08:30AM BLOOD ASA-NEG Acetmnp-NEG Bnzodzp-NEG 
Barbitr-NEG Tricycl-NEG
___ 05:20PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

PERTINENT LABS:

DISCHARGE LABS:

IMAGES:
___ CXR
No acute cardiopulmonary abnormality.

___ CT Head
1. No evidence of intracranial hemorrhage or acute infarction. 
2. Prominent ventricles in a person of this age may represent 
central atrophy. 
3.  Mild periventricular white matter hypodensities may reflect 
the sequela of chronic microvascular infarction. 

___ MRI Head
1.  No acute intracranial process.  Multiple scattered foci of 
T2/FLAIR high signal intensity in the subcortical and 
periventricular white matter, which are nonspecific and may 
reflect changes due to small vessel disease. 
2.  No acute vascular abnormalities. 

 
Brief Hospital Course:
___ is a ___ right handed man with PMH significant for 
HTN, HLD and chronic LBP who presents with stuttering onset of 
vertigo and truncal ataxia. CT and MRI with chronic ischemic 
small vessel changes, but no signs of acute or subacute infarct. 
Given the clinical presentation and examination, this is most 
consistent with an MRI negative stroke. Pt was also tested for 
thiamine deficiency (pending at time of discharge) and 
prophylactically treated with 3 day course of 500mg thiamine and 
daily folate.  His stroke was thought to be secondary to small 
vessel ischemic disease from longstanding hypertension and 
hyperlipidemia.  Since admission to the hospital, Mr. ___ has 
been normotensive. His home lisinopril-HCTZ and  amlodipine were 
stopped. His metoprolol was reduced by ___. For his 
hyperlipidemia, he is on atorvastatin. He is not a non smoker.  
HA1c pending but appears to not be diabetic as FSBG have been 
WNLs throughout admission. Will follow. For secondary stroke 
prevention, he was started on aspirin.  He was seen by ___ 
with recommendation for discharge to rehabilitation facility due 
to unsteady gait.

====================
Transitional Issues:
====================
- Will need close PCP ___ for monitoring of his blood 
pressure and other stroke risk factors. We have stopped his 
amiodarone, lisinopril and HCTZ as his BPs were normotensive 
during admission. Possible/question that patient was not taking 
these medications at home.
- Needs to schedule outpatient transthoracic echocardiogram 
(TTE) with bubble study to assess for PFO.
- ___ cholesterol and hemoglobin A1c, as stroke risk 
factors. ___ need medication adjustments pending results.
- ___ thiamine level (send out lab).
- Elevated creatinine during hospital admission. Will need PCP 
___.
- Hemoglobin A1c was pending at discharge. This will need to be 
followed by PCP.

=
=
=
=
=
=
=
================================================================
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
=
=
=
=
=
=
=
================================================================
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - ED bedside swallow () Not confirmed – () No  
2. DVT Prophylaxis administered? (x) Yes - SQH, pneumoboots () 
No  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - ASA,  () No  
4. LDL documented? (x) Yes (LDL = 126) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) (x) Yes - 80mg 
atorvastatin () No [if LDL >100, reason not given: ]  
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - education packet () No  
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - evaluation by ___, DC to rehab () No  
9. Discharged on statin therapy? (x) Yes - 80mg atorvastatin () 
No [if LDL >100, reason not given: ]  
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - ASA () Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. lisinopril-hydrochlorothiazide 40-50 mg oral DAILY 
2. Amitriptyline 25 mg PO QHS 
3. Amlodipine 10 mg PO DAILY 
4. Atorvastatin 80 mg PO QPM 
5. Clonidine Patch 0.1 mg/24 hr 1 PTCH TD QWED 
6. Gabapentin 400 mg PO TID 
7. Metoprolol Succinate XL 200 mg PO BID 
8. Oxycodone-Acetaminophen (5mg-325mg) 1 TAB PO BID:PRN pain 

 
Discharge Medications:
1. Amitriptyline 25 mg PO QHS 
2. Atorvastatin 80 mg PO QPM 
3. Clonidine Patch 0.1 mg/24 hr 1 PTCH TD QWED 
4. Gabapentin 400 mg PO TID 
5. Aspirin 81 mg PO DAILY 
6. FoLIC Acid 1 mg PO DAILY 
7. Thiamine 500 mg IV Q24H Duration: 3 Days 
8. Oxycodone-Acetaminophen (5mg-325mg) 1 TAB PO BID:PRN pain 
9. Metoprolol Succinate XL 100 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Image negative ischemic stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane) due to significant ataxia

 
Followup Instructions:
___